US04640916
To a solution of 4.18 g of 2-(2-hydroxyethyl)-2H-1,4-benzothiazin-3(4H)-one in 50 ml of dimethylformamide, was added portionwise 0.8 g of 60% sodium hydride in oil with stirring under ice-cooling. After the mixture was stirred for 10 minutes, 1.24 ml of methyl iodide was added thereto. The temperature of the reaction system was then reverted to room temperature and the mixture was stirred for one hour. After dilution with water, the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated under reduced pressure. The residue was subjected to a column chromatography on silica-gel (50 g). From the eluate with hexane-using silica-gel (50 g). From the eluate with hexane-ethyl acetate (2:1, v/v) was obtained 3.90 g (87.4%) of 2-(2-hydroxyethyl)-4-methyl-2H-1,4-benzothiazin-3(4H)-one as an oily substance.

reactant | 2-(2-hydroxyethyl)-2H-1,4-benzothiazin-3(4H)-one | 4.18 g | OCCC1SC2=C(NC1=O)C=CC=C2 | C10H11NO2S
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | methyl iodide | 1.24 ml | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(2-hydroxyethyl)-4-methyl-2H-1,4-benzothiazin-3(4H)-one | 3.90 g, 87.4% | OCCC1SC2=C(N(C1=O)C)C=CC=C2 | C11H13NO2S
